US07973072B2
3. Synthesis of 3,3-bis(hydroxymethyl)thiochroman-4-one
A solution of thiochroman-4-one (2.0 g, 12 mmol) in MeOH (40 ml) and water (8 ml) was admixed with 35% eq. formalin solution (8 ml) and potassium carbonate (200 mg). The reaction mixture was stirred at 40° C. for 2 h and then at RT for 2 h, the solvent was removed under reduced pressure and the residue was admixed with water. The aqueous solution was extracted repeatedly with EtOAc, the combined organic phases were dried over sodium sulfate and the solvent was removed under reduced pressure. After column chromatography purification of the residue (silica gel, 1:1 cyclohexane/EtOAc), the desired product was obtained as a white solid (1.71 g, 63% of theory, m.p. 136-139° C.).

reactant | thiochroman-4-one | 12 mmol, 2.0 g | S1CCC(C2=CC=CC=C12)=O | C9H8OS
reactant | formalin | 8 ml | C=O | CH2O
reactant | potassium carbonate | 200 mg | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | 40 ml | CO | CH4O
solvent | water | 8 ml | O | H2O
product | 3,3-bis(hydroxymethyl)thiochroman-4-one | OCC1(CSC2=CC=CC=C2C1=O)CO | C11H12O3S
